US04507498
A mixture of 7.75 g of (4-acetyl-3-hydroxy-2-propylphenoxy)acetic acid methyl ester, 7.5 ml of epibromohydrin, 4.8 g of potassium iodide and 6.0 g of anhydrous potassium carbonate in 80 ml of anhydrous acetone and 40 ml of anhydrous dimethylformamide was stirred at reflux for 50 hours. The reaction mixture was filtered and the filtrate was concentrated in vacuo to an oil which was purified by high pressure liquid chromatography (HPLC) using 10% ethyl acetate-hexane to yield 6.16 g of [4-acetyl-3-(oxiranylmethoxy)-2-propylphenoxy]acetic acid methyl ester.

reactant | (4-acetyl-3-hydroxy-2-propylphenoxy)acetic acid methyl ester | 7.75 g | COC(COC1=C(C(=C(C=C1)C(C)=O)O)CCC)=O | C14H18O5
reactant | epibromohydrin | 7.5 ml | C(Br)C1CO1 | C3H5BrO
reactant | potassium iodide | 4.8 g | [I-].[K+]
reactant | potassium carbonate | 6.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 80 ml | CC(=O)C | C3H6O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | [4-acetyl-3-(oxiranylmethoxy)-2-propylphenoxy]acetic acid methyl ester | 6.16 g | COC(COC1=C(C(=C(C=C1)C(C)=O)OCC1OC1)CCC)=O | C17H22O6
